* File: halfadder.pex.netlist.pex
* Created: Thu May 18 13:57:37 2023
* Program "Calibre xRC"
* Version "v2017.4_19.14"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_HALFADDER%S 13 14 18 19 32
c0 32 0 0.0871955f
c1 25 0 0.271006f
c2 22 0 0.14886f
c3 18 0 0.00274026f
c4 12 0 0.117428f
c5 8 0 0.0630005f
c6 7 0 0.137652f
c7 6 0 0.0552653f
r8 25 32 0.0124444
r9 21 22 16.3327
r10 19 21 4.59
r11 18 21 4.59
r12 16 25 8.16635
r13 14 16 2.295
r14 13 16 2.295
r15 12 25 0.0444122
r16 9 12 0.276957
r17 7 9 0.039111
r18 7 8 0.202391
r19 6 8 0.039111
r20 5 22 0.0516853
r21 5 6 0.133913
.ends

.subckt PM_HALFADDER%noxref_2 9 14 15 19
c0 32 0 0.136351f
c1 22 0 0.0958234f
c2 18 0 0.149058f
c3 12 0 0.111728f
c4 5 0 0.076675f
c5 4 0 0.0785677f
c6 3 0 0.0954897f
c7 2 0 0.082652f
r8 22 32 8
r9 21 22 16.3327
r10 19 21 4.59
r11 18 29 8
r12 17 18 16.3327
r13 15 17 4.59
r14 14 17 4.59
r15 12 25 8
r16 11 12 16.3327
r17 9 11 4.59
r18 5 29 0.0487391
r19 4 32 0.0487391
r20 4 5 0.2288
r21 3 25 0.0487391
r22 2 29 0.0487391
r23 2 3 0.2288
.ends

.subckt PM_HALFADDER%X 15 21 25 29 32 35 71
c0 64 0 0.137065f
c1 63 0 0.0419373f
c2 61 0 0.0824726f
c3 59 0 0.140935f
c4 56 0 0.111826f
c5 53 0 0.124649f
c6 50 0 0.118245f
c7 47 0 0.109409f
c8 42 0 0.0265624f
c9 41 0 0.0380923f
c10 37 0 0.101958f
c11 33 0 0.0876452f
c12 30 0 0.253714f
c13 29 0 0.0864842f
c14 23 0 0.103405f
c15 21 0 0.145844f
c16 15 0 0.109837f
c17 11 0 0.074751f
c18 7 0 0.0374569f
c19 6 0 0.0238942f
c20 5 0 0.0666101f
c21 2 0 0.414912f
r22 63 64 8
r23 58 61 0.0487391
r24 58 59 8
r25 55 56 13.2552
r26 53 71 0.00538462
r27 52 53 13.2552
r28 50 52 6.09677
r29 49 50 0.387097
r30 44 47 4.88298
r31 44 64 13.2552
r32 41 42 8.52632
r33 40 41 13.75
r34 37 40 8.23869
r35 37 39 8.23869
r36 37 59 13.2552
r37 33 55 11.1752
r38 33 35 19
r39 30 55 8.03563
r40 30 32 34.25
r41 27 50 4.6844
r42 27 29 29.75
r43 26 47 4.73303
r44 26 29 23.25
r45 23 49 4.6844
r46 23 25 34.25
r47 21 42 41
r48 15 39 26.25
r49 12 53 0.0317666
r50 11 56 0.0647029
r51 11 12 0.272391
r52 6 63 0.0487391
r53 6 7 0.0936
r54 4 7 0.0363174
r55 4 5 0.1742
r56 2 5 0.0363174
r57 2 61 0.7644
.ends

.subckt PM_HALFADDER%Y 18 23 28 33 36 40 64
c0 59 0 0.159069f
c1 54 0 0.137042f
c2 52 0 0.149469f
c3 51 0 0.099864f
c4 48 0 0.0607536f
c5 44 0 0.120453f
c6 43 0 0.116673f
c7 36 0 0.114593f
c8 33 0 0.279777f
c9 28 0 0.18521f
c10 25 0 0.0231864f
c11 24 0 0.451394f
c12 23 0 0.119407f
c13 18 0 0.097216f
c14 15 0 0.0333608f
c15 13 0 0.0405049f
c16 7 0 0.0890193f
c17 5 0 0.0164646f
c18 4 0 0.751106f
c19 3 0 0.0990411f
r20 59 62 0.0487391
r21 52 59 8
r22 51 54 8.1313
r23 51 53 8.1313
r24 51 52 13.2552
r25 46 48 12
r26 44 45 0.290323
r27 43 64 0.035814
r28 42 44 6.19355
r29 42 43 13.2552
r30 40 54 34.25
r31 36 53 26.5
r32 31 33 47.5
r33 30 48 0.528559
r34 30 33 58.75
r35 26 46 0.528559
r36 26 28 45.75
r37 24 31 5.02856
r38 24 25 172
r39 21 25 5.02856
r40 21 23 47.5
r41 20 45 4.6844
r42 20 23 34.25
r43 16 44 4.6844
r44 16 18 29.75
r45 15 64 0.00813953
r46 13 57 0.0487391
r47 12 15 0.035
r48 12 13 8
r49 7 62 0.3536
r50 4 7 0.0363174
r51 4 5 2.522
r52 3 5 0.0363174
r53 3 57 0.3536
.ends

.subckt PM_HALFADDER%C1 24 25 29 36 40
c0 55 0 0.0209386f
c1 51 0 0.0921402f
c2 47 0 0.0528139f
c3 45 0 0.102689f
c4 43 0 0.137787f
c5 42 0 0.104971f
c6 36 0 0.0892489f
c7 32 0 0.11694f
c8 28 0 0.251376f
c9 23 0 0.06277f
c10 21 0 0.0807733f
c11 14 0 0.0319309f
c12 11 0 0.00348322f
c13 10 0 0.113501f
c14 9 0 0.0551813f
c15 7 0 0.0237322f
c16 5 0 0.0163661f
c17 4 0 0.0243211f
c18 3 0 0.0163877f
r19 42 45 8.23869
r20 42 44 8.23869
r21 42 43 13.2552
r22 40 45 34.25
r23 36 44 26.25
r24 32 47 8
r25 31 32 16.3327
r26 29 31 4.59
r27 28 51 8
r28 27 28 8.16635
r29 25 27 2.295
r30 24 27 2.34
r31 23 43 0.0634884
r32 21 55 0.0487391
r33 20 23 0.035
r34 20 21 8
r35 12 55 0.1027
r36 10 12 0.0363174
r37 10 11 0.338
r38 9 51 0.0487391
r39 8 14 0.0275239
r40 8 9 0.1027
r41 7 14 0.0275239
r42 6 11 0.0363174
r43 6 7 0.1144
r44 4 14 0.00715299
r45 4 5 0.1079
r46 3 5 0.0363174
r47 2 47 0.0487391
r48 2 3 0.078
.ends

.subckt PM_HALFADDER%Y_INV 10 15 27 33
c0 38 0 0.0410881f
c1 36 0 0.0457128f
c2 31 0 0.149564f
c3 30 0 0.0413542f
c4 27 0 0.154321f
c5 23 0 0.108948f
c6 20 0 0.0961402f
c7 18 0 0.0796895f
c8 13 0 0.164949f
c9 8 0 0.0393083f
c10 6 0 0.216727f
c11 5 0 0.0310057f
c12 3 0 0.0478495f
r13 34 36 12
r14 31 38 7.73958
r15 31 33 34.25
r16 30 38 7.73958
r17 29 36 0.528559
r18 29 30 12.5
r19 25 34 0.528559
r20 25 27 34.25
r21 22 23 13.2552
r22 20 38 1.29764
r23 20 22 4.88298
r24 18 41 0.0516853
r25 17 18 16.3327
r26 15 17 4.59
r27 12 13 8.16635
r28 10 12 2.295
r29 7 8 0.00770322
r30 6 23 0.0647029
r31 6 7 0.553913
r32 5 13 0.0433427
r33 4 8 0.0296412
r34 4 5 0.103478
r35 3 8 0.0296412
r36 3 41 0.14913
.ends

.subckt PM_HALFADDER%X_INV 10 15 24 27
c0 35 0 0.164073f
c1 34 0 0.035046f
c2 32 0 0.110211f
c3 30 0 0.0225026f
c4 27 0 0.133892f
c5 18 0 0.110633f
c6 13 0 0.163456f
c7 9 0 0.037879f
c8 7 0 0.0304636f
c9 5 0 0.0454133f
c10 3 0 0.0854777f
c11 2 0 0.0931169f
r12 32 35 8.1313
r13 32 34 8.1313
r14 32 33 13.2552
r15 30 34 12.5
r16 29 30 8.1
r17 27 29 34.25
r18 24 35 34.25
r19 18 38 0.0516853
r20 17 18 16.3327
r21 15 17 4.59
r22 12 13 8.16635
r23 10 12 2.295
r24 7 13 0.0433427
r25 6 9 0.0296412
r26 6 7 0.103478
r27 5 9 0.0296412
r28 5 38 0.14913
r29 3 33 0.0647029
r30 2 9 0.00770322
r31 2 3 0.32413
.ends

.subckt PM_HALFADDER%VDD 20 38 39 44 49 54 59 64 69 116 118
c0 72 0 0.136366f
c1 67 0 0.145306f
c2 66 0 0.00272036f
c3 62 0 0.136481f
c4 57 0 0.137592f
c5 52 0 0.135189f
c6 51 0 0.00113459f
c7 47 0 0.0935998f
c8 42 0 0.143536f
c9 38 0 0.00170398f
c10 36 0 0.0395994f
c11 34 0 7.52293e-19
c12 32 0 0.0383219f
c13 29 0 0.0676497f
c14 25 0 0.0552061f
c15 22 0 4.21607e-19
c16 18 0 0.0292687f
c17 17 0 0.0259862f
c18 16 0 0.026056f
c19 15 0 0.0278357f
c20 14 0 0.0291791f
c21 13 0 0.0322791f
c22 12 0 0.0270278f
c23 11 0 0.0461196f
c24 10 0 0.0273378f
c25 9 0 0.0572691f
c26 8 0 0.0221066f
c27 7 0 0.0668851f
c28 6 0 0.0190988f
c29 5 0 0.0623961f
c30 4 0 0.0292718f
r31 103 104 8.16635
r32 100 118 0.0284884
r33 94 116 0.0472093
r34 93 94 8.16635
r35 91 94 0.156279
r36 90 93 18.383
r37 90 91 5.44423
r38 87 90 27.5745
r39 87 88 8.16635
r40 83 88 0.156279
r41 82 83 5.44423
r42 79 82 27.5745
r43 79 80 8.16635
r44 76 80 0.156279
r45 75 79 18.383
r46 75 76 5.44423
r47 71 72 8.16635
r48 69 71 2.295
r49 66 67 8.16635
r50 64 66 2.295
r51 61 62 8.16635
r52 59 61 2.295
r53 56 57 8.16635
r54 54 56 2.295
r55 51 52 8.16635
r56 49 51 2.295
r57 46 47 8.16635
r58 44 46 2.295
r59 41 42 8.16635
r60 39 41 2.295
r61 38 103 4.63404
r62 38 100 5.44423
r63 38 87 9.19149
r64 38 82 9.19149
r65 37 72 0.0746667
r66 36 100 0.0936047
r67 35 67 0.0746667
r68 34 118 0.0659302
r69 33 62 0.0746667
r70 32 116 0.0138372
r71 31 57 0.0746667
r72 29 88 0.124535
r73 29 30 0.0171457
r74 28 91 0.0724419
r75 28 30 0.0171457
r76 27 52 0.0746667
r77 25 80 0.070814
r78 25 26 0.0171457
r79 24 83 0.126163
r80 24 26 0.0171457
r81 23 47 0.0746667
r82 22 76 0.0626744
r83 21 42 0.0746667
r84 18 104 0.0168736
r85 18 20 0.034186
r86 17 104 0.0271
r87 16 37 0.0433427
r88 16 17 0.138478
r89 15 36 0.0439737
r90 14 35 0.0433427
r91 14 15 0.138478
r92 13 34 0.0439737
r93 12 33 0.0433427
r94 12 13 0.138478
r95 11 32 0.0439737
r96 10 31 0.0433427
r97 10 11 0.238913
r98 9 30 0.0210391
r99 8 27 0.0433427
r100 8 9 0.238913
r101 7 26 0.0210391
r102 6 23 0.0433427
r103 6 7 0.238913
r104 5 22 0.0439737
r105 4 21 0.0433427
r106 4 5 0.238913
.ends

.subckt PM_HALFADDER%GND 16 25 26 58 63 64 68 73 78 101
c0 89 0 0.0861737f
c1 84 0 0.0738148f
c2 81 0 0.0959086f
c3 76 0 0.106111f
c4 75 0 0.00211652f
c5 71 0 0.101954f
c6 67 0 0.113734f
c7 63 0 0.00274026f
c8 61 0 0.0879498f
c9 23 0 0.0722597f
c10 22 0 0.109931f
c11 20 0 0.140008f
c12 18 0 5.10426e-21
c13 16 0 0.0332616f
c14 13 0 0.0245692f
c15 12 0 2.56974e-19
c16 11 0 0.0209741f
c17 10 0 3.90785e-19
c18 7 0 0.0328388f
r19 80 81 16.3327
r20 78 80 4.59
r21 75 76 16.3327
r22 73 75 4.59
r23 71 89 0.0516853
r24 70 71 16.3327
r25 68 70 4.59
r26 66 67 16.3327
r27 64 66 4.59
r28 63 66 4.59
r29 61 84 0.0516853
r30 60 61 16.3327
r31 58 60 4.59
r32 52 53 8.16635
r33 43 101 0.0423256
r34 42 43 5.44423
r35 40 43 0.234419
r36 39 42 27.5745
r37 39 40 5.44423
r38 33 36 0.234419
r39 32 33 5.44423
r40 29 33 0.234419
r41 28 32 27.5745
r42 28 29 5.44423
r43 26 52 4.59574
r44 26 49 5.44423
r45 26 39 27.5745
r46 26 32 27.5745
r47 26 36 5.44423
r48 23 49 0.0936047
r49 23 25 0.0170348
r50 22 101 0.0325581
r51 20 36 0.0944186
r52 20 21 0.0171457
r53 19 40 0.102558
r54 19 21 0.0171457
r55 18 29 0.0618605
r56 14 53 0.0171009
r57 14 16 0.112326
r58 13 81 0.0516853
r59 12 53 0.0268728
r60 12 13 0.129348
r61 11 76 0.0516853
r62 10 25 0.0269388
r63 10 11 0.129348
r64 8 22 0.0439737
r65 8 89 0.287609
r66 7 67 0.0516853
r67 6 21 0.0210391
r68 6 7 0.129348
r69 4 18 0.0439737
r70 4 84 0.287609
.ends

.subckt PM_HALFADDER%NMOS2_D 2 3
c0 5 0 0.158515f
c1 2 0 0.00217515f
r2 3 5 4.59
r3 2 5 4.59
.ends

.subckt PM_HALFADDER%C 5 7 12
c0 15 0 0.0842488f
c1 10 0 0.136984f
c2 5 0 0.111007f
r3 14 15 16.3327
r4 12 14 4.59
r5 9 10 8.16635
r6 7 9 2.295
r7 3 10 0.0433427
r8 3 5 0.132391
r9 2 15 0.0516853
r10 2 5 0.168913
.ends

.subckt PM_HALFADDER%noxref_12 1 2
r0 1 2 6.66
.ends

.subckt PM_HALFADDER%noxref_13 1 2
c0 1 0 0.0070912f
r1 1 2 2.25
.ends

