* File: nand.pex.netlist.pex
* Created: Sun May  7 21:55:56 2023
* Program "Calibre xRC"
* Version "v2017.4_19.14"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NAND%B 9 13 17
c0 15 0 0.036857f
c1 13 0 0.168199f
c2 9 0 0.115463f
c3 5 0 0.0671525f
c4 2 0 0.125978f
r5 11 15 8.79392
r6 11 13 67.5
r7 7 15 8.79392
r8 7 9 42
r9 5 17 0.0647872
r10 4 5 13.2552
r11 2 15 1.69929
r12 2 4 3.9569
.ends

.subckt PM_NAND%GND 2 20 31
c0 31 0 0.331361f
c1 25 0 0.0018845f
c2 23 0 0.170579f
r3 23 25 0.526522
r4 22 23 16.3327
r5 20 22 4.59
r6 14 31 8.16635
r7 11 31 1.12304
r8 11 28 0.0806522
r9 10 11 16.3327
r10 5 25 0.0195555
r11 5 28 0.0195555
r12 4 5 16.3327
r13 2 14 4.59574
r14 2 10 4.59574
r15 2 4 4.59574
.ends

.subckt PM_NAND%OUT_2 5 10 15 20
c0 23 0 0.169189f
c1 18 0 0.125053f
c2 13 0 0.124596f
c3 9 0 0.015214f
c4 3 0 0.0278443f
c5 2 0 0.235218f
r6 22 23 16.3327
r7 20 22 4.59
r8 17 18 8.16635
r9 15 17 2.295
r10 12 13 8.16635
r11 10 12 2.295
r12 8 18 0.295217
r13 8 9 0.0296412
r14 7 23 0.404783
r15 7 9 0.0296412
r16 6 13 0.295217
r17 3 6 0.039111
r18 3 5 0.240435
r19 2 9 0.00770322
r20 2 5 0.623913
.ends

.subckt PM_NAND%A 4 8 19
c0 19 0 0.113864f
c1 15 0 0.0419225f
c2 12 0 0.12743f
c3 8 0 0.168199f
c4 4 0 0.120831f
r5 13 19 0.0275532
r6 12 13 13.2552
r7 10 15 1.69929
r8 10 12 4.11207
r9 6 15 8.79392
r10 6 8 67.5
r11 2 15 8.79392
r12 2 4 42
.ends

.subckt PM_NAND%NMOS2_D 6 11
c0 14 0 0.0763197f
c1 9 0 0.0925122f
c2 3 0 0.0361908f
c3 2 0 0.373787f
r4 13 14 16.3327
r5 11 13 4.59
r6 8 9 16.3327
r7 6 8 4.59
r8 5 14 0.216087
r9 4 9 0.214565
r10 3 4 0.039111
r11 2 5 0.039111
r12 2 3 1.07435
.ends

.subckt PM_NAND%VDD 2 3 4 9 37
c0 42 0 0.00166449f
c1 40 0 0.00166449f
c2 34 0 0.263286f
c3 12 0 0.136533f
c4 7 0 0.136533f
r5 35 37 0.0076087
r6 32 42 0.0195555
r7 32 34 0.0195555
r8 31 32 16.3327
r9 26 34 0.0806522
r10 25 26 16.3327
r11 22 26 1.12304
r12 22 37 0.0730435
r13 21 22 16.3327
r14 16 40 0.0195555
r15 16 35 0.0195555
r16 15 16 16.3327
r17 12 42 0.520435
r18 11 12 8.16635
r19 9 11 2.295
r20 7 40 0.520435
r21 6 7 8.16635
r22 4 6 2.295
r23 3 31 4.59574
r24 3 25 4.59574
r25 2 21 4.59574
r26 2 15 4.59574
.ends

